US07662809B2
Step 9: 14-cyclohexyl-7-(dimethylamino)-5-methyl-5,6,7,8-tetrahydroindolo[1,2-e][1,5]benzodiazocine-11-carboxylic Acid
To a solution of methyl 14-cyclohexyl-7-(dimethylamino)-5-methyl-5,6,7,8-tetrahydroindolo[1,2-e][1,5]benzodiazocine-11-carboxylate in MeOH (0.05 M), 40 eq 2N NaOH were added and the reaction stirred at 65° C. for 3 h. The reaction was acidified to pH 2 with HCl and the solvent was evaporated in vacuo. The crude was then purified by prep RP-HPLC (stationary phase: column Waters XTERRA prep. C18, 5 um, 19×150 mm. Mobile phase: acetonitrile/H2O buffered with 0.1% TFA). Fractions containing the pure compound were combined and freeze dried to afford the title compound as a brown powder in 8 % yield (over four steps).

reactant | methyl 14-cyclohexyl-7-(dimethylamino)-5-methyl-5,6,7,8-tetrahydroindolo[1,2-e][1,5]benzodiazocine-11-carboxylate | C1(CCCCC1)C=1C=2C=CC(=CC2N2CC(CN(C3=C(C21)C=CC=C3)C)N(C)C)C(=O)OC | C28H35N3O2
reactant | NaOH | 2N, 40 eq | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | MeOH | 0.05 M | CO | CH4O
product | 14-cyclohexyl-7-(dimethylamino)-5-methyl-5,6,7,8-tetrahydroindolo[1,2-e][1,5]benzodiazocine-11-carboxylic Acid | 8 % yield | C1(CCCCC1)C=1C=2C=CC(=CC2N2CC(CN(C3=C(C21)C=CC=C3)C)N(C)C)C(=O)O | C27H33N3O2
